US07772245B2
To a stirred solution of methyl-2-{8-[3-(piperazin-1-ylmethyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (1.5 g, 3.11 mmol) in dry DCM (50 mL) was added 4-dimethylaminopyridine (1.9 g, 15.57 mmol) and then acetic anhydride (0.35 mL, 3.72 mmol) was added at 0° C. and stirred for 5 min. The reaction mass was maintained at room temperature and stirred for 1 h. The progress of the reaction was monitored by TLC, and after completion the reaction mass was diluted with water and extracted with DCM. The DCM layer dried over sodium sulfate and concentrated. The residue was purified by column chromatography to give methyl-2-{8-[3-((4-acetylpiperazin-1-yl)methyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (1.4 g, 85.88%) with HPLC purity 99.25%; m/e=525 (M++1).

reactant | methyl-2-{8-[3-(piperazin-1-ylmethyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 3.11 mmol, 1.5 g | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C2=CC(=CC=C2)CN2CCNCC2)CC1 | C28H30N6O2
reactant | acetic anhydride | 3.72 mmol, 0.35 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 15.57 mmol, 1.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | methyl-2-{8-[3-((4-acetylpiperazin-1-yl)methyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 1.4 g, 85.88% | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=CC(=CC23)C2=CC(=CC=C2)CN2CCN(CC2)C(C)=O)CC1 | C30H32N6O3
